US08247574B2
B) 1-tertButylimidazole 2
0.62 mol of paraformaldehyde (18.600 g) is initially charged in 80 ml of methanol. 0.6 mol of tertbutylamine (43.884 g, 63.32 ml) in 80 ml of methanol is cautiously added dropwise thereto with ice cooling. At a temperature of 0° C., 0.3 mol of ammonium carbonate (28.820 g) and 0.6 mol of 40% glyoxal solution (87.040 g, 68.8 mol) in 160 ml of methanol are added. Thereafter, the reaction mixture is warmed to room temperature and stirred overnight, in order that the carbon dioxide formed can escape. Ultimately, the solvent is removed and the product is distilled through a column under high vacuum.

reactant | paraformaldehyde | 0.62 mol, 18.600 g | C=O | CH2O
reactant | tertbutylamine | 0.6 mol, 63.32 ml, 43.884 g | C(C)(C)(C)N | C4H11N
reactant | ammonium carbonate | 0.3 mol, 28.820 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | glyoxal | 0.6 mol, 87.040 g | C(=O)C=O | C2H2O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
solvent | methanol | 160 ml | CO | CH4O
product | 1-tertButylimidazole | C(C)(C)(C)N1C=NC=C1 | C7H12N2
